US06756497B1
Preparation of ethyl 4,5-dichloro-2-methyl-3-(3-methylisooxazol-5-yl)benzoate
0.11 g of 6-methyl-5-(3-methylisoxazol-5-yl)-1,2,3,4-tetrachlorobicyclo[2.2.1]hept-2en-7-one (a mixture of trans:cis=1:1) was dissolved in 1 ml of ethanol, and 0.06 g of sodium ethylate was added, while cooling with ice. The resulting solution was stirred for an hour at room temperature. The reaction solution was poured into 50 ml of ice-water, and extracted with 30 ml of ethyl acetate twice. The organic layer was washed with saturated salt water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The obtained viscous liquid was purified on silica gel column chromatography (elution with n-hexane/ethyl acetate) to give 0.024 g of the title compound as white crystals. Melting point 86-88° C.

reactant | 6-methyl-5-(3-methylisoxazol-5-yl)-1,2,3,4-tetrachlorobicyclo[2.2.1]hept-2en-7-one | 0.11 g | CC1C(C2(C(=C(C1(C2=O)Cl)Cl)Cl)Cl)C2=CC(=NO2)C | C12H9Cl4NO2
reactant | sodium ethylate | 0.06 g | CC[O-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | ethyl 4,5-dichloro-2-methyl-3-(3-methylisooxazol-5-yl)benzoate | 0.024 g | ClC1=C(C(=C(C(=O)OCC)C=C1Cl)C)C1=CC(=NO1)C | C14H13Cl2NO3
